US09388196B2
Step 1: benzyl 5-azaspiro[2.5]octane-5-carboxylate
To a stirred solution of Diethyl zinc (1.38 g, 11.2 ml, 1 M solution in hexane 11.24 mmol) in dichloromethane (10 ml) was added trifluoroacetic acid (1.28 g, 0.84 ml, 11.24 mmol) drop wise manner at 0° C. Diiodomethane (3.01 g, 0.90 ml, 11.24 mmol) in dichloromethane (5 ml) was added and reaction mixture was stirred at 0° C. for 30 min. A solution of benzyl 3-methylenepiperidine-1-carboxylate (prepared according to the procedure given in European Journal of Medicinal Chemistry 1991, 26, 625-631), (1.3 g, 5.62 mmol) in dichloromethane (10 ml) was added and reaction mixture stirred at 0° C. for 30 min and then at 25° C. for 18 hr. The progress of reaction was monitored by TLC. Reaction mixture was diluted with dichloromethane (25 ml) and poured in to a saturated solution of sodium bicarbonate (50 ml). Solid precipitated out was filtered, organic layer was separated and dried over sodium sulphate and concentrated under reduced pressure to obtain a crude product, which was purified by flash column chromatography using 6% ethyl acetate in hexanes to obtain the title compound (0.95 g, 68.9%). MS: m/z 246 (M+1).

reactant | Diethyl zinc | 11.24 mmol, 1 M, 11.2 ml, 1.38 g | C(C)[Zn]CC
reactant | trifluoroacetic acid | 11.24 mmol, 0.84 ml, 1.28 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | Diiodomethane | 11.24 mmol, 0.90 ml, 3.01 g | ICI | CH2I2
reactant | benzyl 3-methylenepiperidine-1-carboxylate | C=C1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO2
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | benzyl 5-azaspiro[2.5]octane-5-carboxylate | 0.95 g, 68.9% | C1CC12CN(CCC2)C(=O)OCC2=CC=CC=C2 | C15H19NO2
